US09056867B2
3-Amino-6-morpholin-4-yl-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide
A mixture comprising 3-amino-6-bromo-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide (Ex. 6) (42 mg, 0.120 mmol) and morpholine (1 ml, 11.3 mmol) was heated at 100-140° C. using microwave for 8 hours and 15 minutes. The reaction mixture was concentrated in vacuo and purification of the residue by preparative LC-MS afforded the title compound as a yellow solid.

reactant | 3-amino-6-bromo-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide | 0.120 mmol, 42 mg | N=1NC(=CC1)NC(=O)C1=NC(=C(N=C1N)C(F)(F)F)Br | C9H6BrF3N6O
reactant | morpholine | 11.3 mmol, 1 ml | N1CCOCC1 | C4H9NO
product | 3-Amino-6-morpholin-4-yl-5-trifluoromethyl-pyrazine-2-carboxylic acid (2H-pyrazol-3-yl)-amide | N=1NC(=CC1)NC(=O)C1=NC(=C(N=C1N)C(F)(F)F)N1CCOCC1 | C13H14F3N7O2
